US07687491B2
(24b) 2-(Methylsulfonyl)-6-{[(triisopropylsilyl)oxy]methyl}nicotinonitrile
To a solution of 2-(methylthio)-6-{[(triisopropylsilyl)oxy]methyl}nicotinonitrile (1.5 g, 4.5 mmol) that was obtained in Example 24 (24a) in ethanol (10 ml) was added m-chlorobenzoic acid (2.3 g, 14 mmol) at 0° C. with stirring, and after raising the reaction temperature to room temperature, the resulting mixture was stirred for 3 hours and then evaporated in vacuo. Subsequently, to a solution of the residue obtained in ether (20 ml) was added a saturated aqueous solution of potassium carbonate (10 ml) with stirring, and the resulting mixture was stirred for 1 hour. After stirring, the reaction mixture was poured into water (20 ml) and extracted with ether. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (2:8 to 3:7) as the eluent to afford the title compound (1.7 g) in a yield of 100% as a white crystalline solid.

reactant | 2-(methylthio)-6-{[(triisopropylsilyl)oxy]methyl}nicotinonitrile | 4.5 mmol, 1.5 g | CSC1=C(C#N)C=CC(=N1)CO[Si](C(C)C)(C(C)C)C(C)C | C17H28N2OSSi
reactant | m-chlorobenzoic acid | 14 mmol, 2.3 g | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | potassium carbonate | 10 ml | C([O-])([O-])=O.[K+].[K+]
reactant | water | 20 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(Methylsulfonyl)-6-{[(triisopropylsilyl)oxy]methyl}nicotinonitrile | yield of 100% | CS(=O)(=O)C1=C(C#N)C=CC(=N1)CO[Si](C(C)C)(C(C)C)C(C)C | C17H28N2O3SSi
